US04797498
7-[2-hydroxy-3-(propylamino)propoxy]flavone (Method B, Variation 2)
To 10.35 liters (125.9 mol) of n-propylamine were added 530 g (1.8 mol) of 7-(2,3-epoxypropoxy)flavone and 5.4 liters of abs ethanol. The mixture was heated at 50° to 55° for 1.5 hr, with stirring. The reaction mixture was cooled and clarified by filtration, and the filtrate concentrated in a rotary evaporator to a volume of 4.0 liters. The resulting solid product was filtered and washed with 1 liter abs ethanol; yield 383 g (60%) of a bright yellow solid, m.p. 144°-146°. The bright yellow solid was suspended in a mixture of 3.41 liters of water and 1.14 liters of 95% ethanol and then treated with 537 ml of 2.5N hydrochloric acid to obtain a solution of pH 1 to 2. The resulting aqueous solution was extracted twice with 537 ml of methylene chloride and then four times with 268 ml of CH2Cl2. The aqueous solution was clarified by filtration. Water (1.14 liters) was added to the filtrate, followed by the slow addition of 537 ml of 2.5N NaOH until the mixture tested for a pH of 10 to 11 to give a solid precipitate. The mixture was stirred for 1/2 hr. The product was filtered, washed with 2.68 liters water and air dried; yield, 362 g (57%) of the title compound as a pale yellow powder, m.p. 145°-147°.

reactant | n-propylamine | 125.9 mol, 10.35 liters | C(CC)N | C3H9N
reactant | 7-(2,3-epoxypropoxy)flavone | 1.8 mol, 530 g | O1C(COC2=CC=C3C(C=C(OC3=C2)C2=CC=CC=C2)=O)C1 | C18H14O4
solvent | ethanol | C(C)O | C2H6O
product | 7-[2-hydroxy-3-(propylamino)propoxy]flavone | 362 g, 57% | OC(COC1=CC=C2C(C=C(OC2=C1)C1=CC=CC=C1)=O)CNCCC | C21H23NO4
